US07776869B2
To a solution of N-(3-(dimethylamino)propyl)-N-methyl-3-nitro-5-(trifluoromethyl)pyridin-2-amine (246 mg, 0.8 mmol) in EtOH was added Raney Nickel (700 mg, wet, washed). The reaction was allowed to stir for 2 h then filtered through a pad of Celite and concentrated under reduced pressure to afford N2-(3-(dimethylamino)propyl)-N2-methyl-5-(trifluoromethyl)pyridine-2,3-diamine. MS m/z=277 [M+H]+. Calc'd for C12H19F3N4: 276

reactant | N-(3-(dimethylamino)propyl)-N-methyl-3-nitro-5-(trifluoromethyl)pyridin-2-amine | 0.8 mmol, 246 mg | CN(CCCN(C1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F)C)C | C12H17F3N4O2
solvent | EtOH | CCO | C2H6O
catalyst | Raney Nickel | 700 mg | [Ni] | Ni
product | N2-(3-(dimethylamino)propyl)-N2-methyl-5-(trifluoromethyl)pyridine-2,3-diamine | CN(CCCN(C1=NC=C(C=C1N)C(F)(F)F)C)C | C12H19F3N4
